US04000305
A mixture of 5-chloro-2,3-dihydroxypyridine (1.0g.) and phosphoryl chloride (10ml.) was heated overnight at 180° C. in a sealed tube. The phosphoryl chloride was distilled off, and the residue was chromatographed, to give 2,5-dichloro-3-hydroxypyridine, m.p. 160°-161° C. (ethyl acetate - petrol).

reactant | 5-chloro-2,3-dihydroxypyridine | 1.0g | ClC=1C=C(C(=NC1)O)O | C5H4ClNO2
reactant | phosphoryl chloride | 10ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2,5-dichloro-3-hydroxypyridine | ClC1=NC=C(C=C1O)Cl | C5H3Cl2NO
